US04549019
A solution consisting of 96 g of ethyl β-amino-β-ethoxyacrylate hydrochloride, 800 ml of methylene chloride and 120 ml of N-methylmorpholine is warmed to 40°. While stirring there is added dropwise within 2 hours a solution of 65 ml of methyl chloroformate in 350 ml of methylene chloride. After completion of the addition, the mixture is stirred at 40° for a further 2 hours. Thereupon, the resulting salt is filtered off under suction and washed with about 50 ml of methylene chloride. The filtrate is evaporated at 40° in a water-jet vacuum. There is obtained crude methyl[(1-ethoxy-2-ethoxycarbonyl)-ethylidene]carbamate in the form of a pale yellow oil which is used immediately in the next step.

reactant | ethyl β-amino-β-ethoxyacrylate hydrochloride | 96 g | Cl.NC(=CC(=O)OCC)OCC
reactant | N-methylmorpholine | 120 ml | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 65 ml | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | methyl[(1-ethoxy-2-ethoxycarbonyl)-ethylidene]carbamate | COC(N=CCC(=O)OCCOCC)=O | C9H15NO5
